US04599443
A suspension of 2-(1-fluorononadec-13-en-4,7-diynyl)-4,5-dihydro-4,4-dimethyloxazole (86 mg) in 3 ml of 3N HCl was refluxed wih stirring under argon for 15 min. It was cooled to about 23° C., diluted with 3 ml of water, and extracted three times with ether. The ether extracts were combined, washed with brine, and dried over MgSO4. Concentration of ether at 35° C./35 mmHg gave the crude acid which was purified by flash chromatography on silica gel (8 g, 230-400 mesh). Elution with HOAc-CH3OH-CHCl3 under nitrogen afforded 49 mg (66% yield by weight) of (Z)-2-fluoro-14-eicosene-5,8-diynoic acid as a colorless oil.

reactant | 2-(1-fluorononadec-13-en-4,7-diynyl)-4,5-dihydro-4,4-dimethyloxazole | 86 mg | FC(CCC#CCC#CCCCCC=CCCCCC)C=1OCC(N1)(C)C | C24H36FNO
reactant | water | 3 ml | O | H2O
solvent | HCl | 3N, 3 ml | Cl | ClH
product | (Z)-2-fluoro-14-eicosene-5,8-diynoic acid | 49 mg, 66% yield | FC(C(=O)O)CCC#CCC#CCCCC\C=C/CCCCC | C20H29FO2
